US06143764
N-(4-t-Butylphenyl)-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}carboxamide [155]
4-[6,7-Dimethoxy-4-quinolyl)oxybenzoic acid (54 mg) and commercially available 4-tert-butylaniline (102 mg) were dissolved in N,N-dimethylformamide (3 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (106 mg) was added, and the admixture was stirred at room temperature for 6 hours, after which the reaction mixture was purified in the same manner as described in Example 51 to obtain 29 mg of the title compound (yield: 35%).

reactant | 4-[6,7-Dimethoxy-4-quinolyl)oxybenzoic acid | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C(=O)O)C=C1 | C18H15NO5
reactant | 4-tert-butylaniline | 102 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 106 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(4-t-Butylphenyl)-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}carboxamide | 29 mg, yield: 35% | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H28N2O4
